US05716624
Following the basic procedure of Example 46(a), by reacting 4.58 g (0.02 mol) of 3-tert-butyl-4-hydroxybromobenzene with 2.2 ml (0.022 mol) of 1-iodopropane, 4.7 g (87%) of 3-tert-butyl-4-propyloxybromobenzene were obtained in the form of a colorless oil.

reactant | 3-tert-butyl-4-hydroxybromobenzene | 0.02 mol, 4.58 g | C(C)(C)(C)C=1C=C(C=CC1O)Br | C10H13BrO
reactant | 1-iodopropane | 0.022 mol, 2.2 ml | ICCC | C3H7I
product | 3-tert-butyl-4-propyloxybromobenzene | 4.7 g, 87% | C(C)(C)(C)C=1C=C(C=CC1OCCC)Br | C13H19BrO
